US06521627B1
(7) Synthesis of 6-(1-chloroethyl)-5-iodo-4-[2-(4-trifluoromethoxyphenyl)ethylamino]pyrimidine (Compound 1- (20))
In toluene (50 ml) were dissolved 2-(4-trifluoromethoxyphenyl)ethylamine (1.0 g) and triethylamine (1.0 g), then, 4-chloro-6-(1-chloroethyl)-5-iodopyrimidine (1.5 g) was added to the solution, and the mixture was heated at about 60° C. for 3 hours while stirring.

reactant | 2-(4-trifluoromethoxyphenyl)ethylamine | 1.0 g | FC(OC1=CC=C(C=C1)CCN)(F)F | C9H10F3NO
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-6-(1-chloroethyl)-5-iodopyrimidine | 1.5 g | ClC1=NC=NC(=C1I)C(C)Cl | C6H5Cl2IN2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(1-chloroethyl)-5-iodo-4-[2-(4-trifluoromethoxyphenyl)ethylamino]pyrimidine | ClC(C)C1=C(C(=NC=N1)NCCC1=CC=C(C=C1)OC(F)(F)F)I | C15H14ClF3IN3O
